US07985862B2
(Step 1) A mixture of 5-chloro-2-fluorobenzonitrile (5.83 g) and sodium ethanethiolate (3.47 g) was stirred in N,N-dimethylformamide (50 ml) at room temperature for 14 hr. The reaction solution was treated with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give 5-chloro-2-(ethylsulfanyl)benzonitrile (7.4 g).

reactant | 5-chloro-2-fluorobenzonitrile | 5.83 g | ClC=1C=CC(=C(C#N)C1)F | C7H3ClFN
reactant | sodium ethanethiolate | 3.47 g | C(C)[S-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-chloro-2-(ethylsulfanyl)benzonitrile | 7.4 g | ClC=1C=CC(=C(C#N)C1)SCC | C9H8ClNS
